US07494999B2
To a solution of (4,6-dichloropyridin-3-yl)methanol (7 g, 39 mmol) in CCl4 (200 mL), was added sulfuryl dichloride (120 mL) dropwise with stirring. The resulting solution was heated at reflux overnight. The mixture was concentrated and the pH was adjusted to pH 8 by the addition of NaHCO3 (2N). The resulting solution was extracted with EtOAc (2×100 mL) and the organic layers were combined and dried over Na2SO4. The residue was purified by silica gel column chromatography to afford 1.2 g (12%) of 2,4-dichloro-5-(trichloromethyl)pyridine.

reactant | (4,6-dichloropyridin-3-yl)methanol | 39 mmol, 7 g | ClC1=C(C=NC(=C1)Cl)CO | C6H5Cl2NO
reactant | sulfuryl dichloride | 120 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,4-dichloro-5-(trichloromethyl)pyridine | 1.2 g, 12% | ClC1=NC=C(C(=C1)Cl)C(Cl)(Cl)Cl | C6H2Cl5N
